US07186730B2
A solution of 5-amino-2-methoxypyridine (50 g, 0.4 mol) in ethanol (300 ml) was treated with 2,2-dimethyl-[1,3]dioxane-4,6-dione (Meldrum's acid) (68 g) and triethylorthoformate (66 ml). The mixture was heated to reflux for 2 hours, then allowed to cool. Filtration afforded the intermediate 5-[(6-methoxy-pyridin-3-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione as a white solid (101.2 g). A portion of this material (50 g) was added to boiling Dowtherm A (300 ml) over 3 minutes under a stream of argon. The mixture was refluxed for a further 5 minutes then allowed to cool before adding to ether. Filtration and drying afforded 6-methoxy-1H-[1,5]naphthyridin-4-one as a white solid (24.7 g, 70%).

reactant | 5-amino-2-methoxypyridine | 0.4 mol, 50 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | 2,2-dimethyl-[1,3]dioxane-4,6-dione | 68 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | triethylorthoformate | 66 ml | C(C)OC(OCC)OCC | C7H16O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 5-[(6-methoxy-pyridin-3-ylamino)-methylene]-2,2-dimethyl-[1,3]dioxane-4,6-dione | 101.2 g | COC1=CC=C(C=N1)NC=C1C(OC(OC1=O)(C)C)=O | C13H14N2O5
